* source RC TEST
C_C857         N00232 N002051 C_C857 100p  TC=0,0 
.model        C_C857 CAP C=1 DEV=1% TC1=0 TC2=0 VC1=0 VC2=0
R_R75         0 N00232 R_R75 93.1 TC=0,0 
.model        R_R75 RES R=1 DEV=1% TC1=0 TC2=0
R_R79         N01142 N00232 R_R79 93.1 TC=0,0 
.model        R_R79 RES R=1 DEV=1% TC1=0 TC2=0
R_R74         0 N01142 R_R74 93.1 TC=0,0 
.model        R_R74 RES R=1 DEV=1% TC1=0 TC2=0
L_L11         N01142 N01860 L_L11 10nH  
.model        l_L11 IND L=1 DEV=1% TC1=0 TC2=0 IL1=0 IL2=0
L_L12         0 N01867 L_L12 10nH  
.model        l_L12 IND L=1 DEV=1% TC1=0 TC2=0 IL1=0 IL2=0
Kn_K1         L_L11 L_L12     1 Kbreak
C_C953         N01860 N01867 C_C953 1p  TC=0,0 
.model        C_C953 CAP C=1 DEV=1% TC1=0 TC2=0 VC1=0 VC2=0
L_L26         N01860 N02150 L_L26 1nH  
.model        l_L26 IND L=1 DEV=1% TC1=0 TC2=0 IL1=0 IL2=0
V_V1         N06779 0  AC 1
+SIN 0 3 1.9G 0 0 0
L_L27         N01867 N02150 L_L27 1nH  
.model        l_L27 IND L=1 DEV=1% TC1=0 TC2=0 IL1=0 IL2=0
R_R71         N02150 N02150 R_R71 93.1 TC=0,0 
.model        R_R71 RES R=1 DEV=1% TC1=0 TC2=0
C_C853         0 N02150 C_C853 100p  TC=0,0 
.model        C_C853 CAP C=1 DEV=1% TC1=0 TC2=0 VC1=0 VC2=0
C_C854         0 N02150 C_C854 100p  TC=0,0 
.model        C_C854 CAP C=1 DEV=1% TC1=0 TC2=0 VC1=0 VC2=0
R_R1b         N07707 N002051 R_R1b 2.0137 TC=0,0 
.model        R_R1b RES R=1 DEV=1% TC1=0 TC2=0
R_R1a         N07659 N07707 R_R1a 2.0137 TC=0,0 
.model        R_R1a RES R=1 DEV=1% TC1=0 TC2=0
R_R2         0 N07707 R_R2 619.75 TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
C_C859         N07659 N06779 C_C859 100p  TC=0,0 
.model        C_C859 CAP C=1 DEV=1% TC1=0 TC2=0 VC1=0 VC2=0
